US07307137B2
In an especially contemplated arm extension strategy depicted in FIG. 4, in which AD represents an adamantane or diamantane group. Phenylacetylene is a starting molecule that is reacted (A1) with TBPA (supra) to yield 1,3,5,7-tetrakis[3′/4′-(phenylethynyl)phenyl]adamantane. Alternatively, phenylacetylene can be converted (B1) to 4-(phenylethynyl)phenylbromide that is subsequently reacted (C1) with trimethylsilylacetylene to form 4-(phenylethynyl)phenylacetylene. TBPA can then be reacted (with phenylethynylphenylacetylene to 1,3,5,7-tetrakis{3′/4′-[4″-(phenylethynyl)phenylethynyl]phenyl}-adarnantane. In a further extension reaction, phenylethynylphenylacetylene is reacted (2) with 1-bromo-4-iodobenzene to form 4-[4′-(phenylethynyl)phenylethynyl]phenylbromide that is further converted (C2) to 4-[4′-(phenylethynyl)phenylethynyl]acetylene. The so formed 4-[4′-(phenylethynyl)phenylethynyl]acetylene may then be reacted (A3) with TBA to yield 1,3,5,7-tetrakis-{3′/4′-[4″-(4′-(phenylethynyl)phenylethynyl)phenylethynyl]phenyl}adamantane.

reactant | TBPA | CCCCOP(=O)(OCCCC)OCCCC | C12H27O4P
reactant | phenylethynylphenylacetylene | C1(=CC=CC=C1)C#CC#CC1=CC=CC=C1 | C16H10
reactant | 1-bromo-4-iodobenzene | BrC1=CC=C(C=C1)I | C6H4BrI
product | 4-[4′-(phenylethynyl)phenylethynyl]phenylbromide | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)Br | C22H13Br
